US06521754B2
N-(4-Methoxy-7-morpholin-4-yl-benzothiazol-2-yl)-3-phenyl-propionamide
Using 4-methoxy-7-morpholin-4-yl-benzothiazol-2-yl-amine and 3-phenylpropionyl chloride the title compound was obtained as a light yellow solid (3%), MS: m/e=398 (M+H+).

reactant | 4-methoxy-7-morpholin-4-yl-benzothiazol-2-yl-amine | COC1=CC=C(C2=C1N=C(S2)N)N2CCOCC2 | C12H15N3O2S
reactant | 3-phenylpropionyl chloride | C1(=CC=CC=C1)CCC(=O)Cl | C9H9ClO
product | N-(4-Methoxy-7-morpholin-4-yl-benzothiazol-2-yl)-3-phenyl-propionamide | COC1=CC=C(C2=C1N=C(S2)NC(CCC2=CC=CC=C2)=O)N2CCOCC2 | C21H23N3O3S
